US08710038B2
To a mixture of 5-(hydroxy-3-methoxy-phenyl)-1-phenyl-pent-4-ene-1,3-dione (0.14 g, 0.48 mmol) and hydrazine monohydrate (0.02 g, 0.48 mmol) were added ethanol (24 mL) and acetic acid (1 drop) in a sealed tube. The reaction was heated at 65-70° C. overnight. The solvent was removed under reduced pressure to afford crude product. Purification on triethylamine treated silica (1:1 hexanes/ethyl acetate) afforded a mixture of two products. Reverse phase HPLC purification afforded 2-(methyloxy)-4-[(E)-2-(5-phenyl-1H-pyrazol-3-yl)ethenyl]phenol (0.015 g, 10% yield) as trifluoroacetate salt: 1H NMR (400 MHz, CDCl3): δ 9.21 (br s, 2H), 7.78 (br s, 2H), 7.42 (m, 3H), 7.20 (br d, 1H), 6.94 (m, 6H), 3.92 (s, 3H); MS (EI) for C18H16N2O2: 293 (MH+).

reactant | 5-(hydroxy-3-methoxy-phenyl)-1-phenyl-pent-4-ene-1,3-dione | 0.48 mmol, 0.14 g | OC1=C(C=CC=C1OC)C=CC(CC(=O)C1=CC=CC=C1)=O | C18H16O4
reactant | hydrazine monohydrate | 0.48 mmol, 0.02 g | O.NN
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | ethanol | 24 mL | C(C)O | C2H6O
product | 2-(methyloxy)-4-[(E)-2-(5-phenyl-1H-pyrazol-3-yl)ethenyl]phenol | 0.015 g, 10% yield | COC1=C(C=CC(=C1)\C=C\C1=NNC(=C1)C1=CC=CC=C1)O | C18H16N2O2
